US07781478B2
To a solution [4-(3-cyano-1-cyclobutyl-6-methoxy-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester (950 mg, 2.35 mmol) in DCM (10 mL) is added BBr3 (556 uL, 5.9 mmol) over a period of 20 min. The reaction mixture is stirred further for 1 h at room temperature and then water (1 mL) is added. The solvents are removed under reduced pressure. The residue is dissolved in MeOH and then poured into cold water. The precipitate is collected by filtration and washed with hexane and dried in vacuo to afford [4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester (650 mg, 71%).

reactant | [4-(3-cyano-1-cyclobutyl-6-methoxy-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester | 2.35 mmol, 950 mg | C(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)C1CCC1)=O | C24H25N3O3
reactant | BBr3 | 5.9 mmol, 556 uL | B(Br)(Br)Br | BBr3
reactant | water | 1 mL | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid isopropyl ester | 650 mg, 71% | C(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CCC1)=O | C23H23N3O3
